US07812036B2
2-(6-Methylamino-1-pyridin-2-ylmethyl-1H-indol-3-ylsulfanyl)-benzonitrile
v)—Following a procedure analogous to that described under step i of Example 2, the product obtained in the previous step (0.150 g, 0.33 mmol) was methylated to give, after column chromatography (toluene/acetone 8:2), [3-(2-cyano-phenylsulfanyl)-1-pyridin-2-ylmethyl-1H-indol-6-yl]-methyl-carbamic acid tert-butyl ester (0.044 g).

reactant | [3-(2-cyano-phenylsulfanyl)-1-pyridin-2-ylmethyl-1H-indol-6-yl]-methyl-carbamic acid tert-butyl ester | 0.044 g | C(C)(C)(C)OC(N(C)C1=CC=C2C(=CN(C2=C1)CC1=NC=CC=C1)SC1=C(C=CC=C1)C#N)=O | C27H26N4O2S
solvent | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
product | 2-(6-Methylamino-1-pyridin-2-ylmethyl-1H-indol-3-ylsulfanyl)-benzonitrile | CNC1=CC=C2C(=CN(C2=C1)CC1=NC=CC=C1)SC1=C(C#N)C=CC=C1 | C22H18N4S
